### PR TITLE
doc: add documentation for builtin attributes

### LINKED ISSUE #8432: Hovering on syntax-less attributes shows no docstring
Attriubutes like `elab_as_elim` that don't have dedicated `: attr` syntax don’t show anything useful when hovering on them (they show the generic “declModifiers is the collection of modifiers on a declaration:” docstring):

```
@[elab_as_elim] theorem subst {p : (b : α) → a = b → Prop} (h₁ : a = b) (h₂ : p a rfl) : p b h₁ := by
  cases h₁
  assumption
```

This is unfortunate, since these attributes do have an `descr` passed to `registerBuiltinAttribute`.

It would be good if that could be surfaced here somehow, and also make Ctrl-Click work.

### Versions

Lean 4.21.0-nightly-2025-05-21

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by Rob23oba**
This PR adds documentation to builtin attributes like `@[refl]` or `@[implemented_by]`.

Closes #8432

### CODE REVIEW

File: src/Lean/BuiltinDocAttr.lean [hunk 1]
```diff
@@ -15,7 +15,11 @@ def declareBuiltinDocStringAndRanges (declName : Name) : AttrM Unit := do
   if let some declRanges ← findDeclarationRanges? declName then
     declareBuiltin (declName ++ `declRange) (mkAppN (mkConst ``addBuiltinDeclarationRanges) #[toExpr declName, toExpr declRanges])
 
-builtin_initialize
+/--
+Makes the documentation and location of a declaration available as a builtin.
+-/
+@[builtin_init, builtin_doc]
+private def initFn :=
```
Comment (nomeata) [inline src/Lean/BuiltinDocAttr.lean:22]: How meta! :-)

File: src/Lean/Compiler/CSimpAttr.lean [hunk 2]
```diff
@@ -48,7 +48,19 @@ def add (declName : Name) (kind : AttributeKind) : CoreM Unit := do
...
+Tags compiler simplification theorems. A compiler simplification theorem cannot take any parameters
+and must prove a statement `@f = @g` where `f` and `g` are arbitrary constants.
+
+In functions defined after the theorem tagged `@[csimp]`, any occurrence of `f` is replaced with
+`g` while compiling. In this sense, `@[csimp]` works as a safe alternative of `@[implemented_by]`.
+
+`@[csimp]` is useful for providing an efficient implementation to a function with useful
+definitional equalities or to make noncomputable functions computable.
+This is for example used for many `List` functions to provide a tail-recursive implementation.
+-/
```
Comment (nomeata) [inline src/Lean/Compiler/CSimpAttr.lean:61]: Worth pointing out that csimp theorems don't protect you from introducing nontermination into your code?

Comment (Rob23oba) [reply src/Lean/Compiler/CSimpAttr.lean:61]: In which sense? Can you give an example?

File: src/Lean/BuiltinDocAttr.lean (hunk 1 above)
Comment (Rob23oba) [reply src/Lean/BuiltinDocAttr.lean:22]: Well, the syntax `@[builtin_doc] builtin_initialize` doesn't work yet, so, well... expand it manually

Comment (Rob23oba) [reply src/Lean/BuiltinDocAttr.lean:22]: And oh yeah
```lean
@[builtin_doc] ... registerBuiltinAttribute `builtin_doc ...
```
you're right lol.

File: src/Lean/Compiler/ImplementedByAttr.lean [hunk 3]
```diff
@@ -11,6 +11,31 @@ import Lean.Elab.InfoTree
...
+
+unsafe def barUnsafe (x : Nat) : Nat := ...
+
+@[implemented_by barUnsafe]
+opaque bar (x : Nat) : Nat
+```
+
+Note: the provided implementation will not be checked to be correct, thus making it possible to
+prove `False` with `native_decide` using incorrect implementations. For a safer variant of this
+attribute that however only works for providing safe implementations, see `@[csimp]`.
```
Comment (arthur-adjedj) [inline src/Lean/Compiler/ImplementedByAttr.lean:36]: `@[csimp]` does not necessarily provide a safe implementation. In particular, users are allowed to tag `unsafe` declarations with `csimp`, leading to the same kind of unsoundness:
```lean
def foo (_x : Nat) := 2
def bar (_x : Nat) := 3

@[csimp]
unsafe def foo_eq_bar : foo = bar := lcProof

example : False := by
  have : foo 0 = 3 := by native_decide
  cases this
```
I'm not sure whether this should be explicited in this particular doc, if it should be written down in the `csimp` docs, or if allowing for unsafe `csimp` should be disallowed altogether ?

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-04-30` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-04-30 11:45:47)
- ✅ Mathlib branch [lean-pr-testing-8173](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8173) has successfully built against this PR. (2025-04-30 17:38:15) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/14759945165)
- ❗ Batteries CI can not be attempted yet, as the `nightly-testing-2025-05-21` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Batteries CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-21 19:06:07)
- ✅ Mathlib branch [lean-pr-testing-8173](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8173) has successfully built against this PR. (2025-05-22 16:27:46) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15191002772)
- ✅ Mathlib branch [lean-pr-testing-8173](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8173) has successfully built against this PR. (2025-05-23 16:33:44) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15214243006)
- 🟡 Mathlib branch [lean-pr-testing-8173](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8173) build against this PR was cancelled. (2025-05-27 16:16:01) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15279716778)
- ✅ Mathlib branch [lean-pr-testing-8173](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8173) has successfully built against this PR. (2025-05-27 16:58:26) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15280333137)
- ✅ Mathlib branch [lean-pr-testing-8173](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8173) has successfully built against this PR. (2025-05-27 18:09:13) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15281746837)
- ✅ Mathlib branch [lean-pr-testing-8173](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8173) has successfully built against this PR. (2025-05-27 18:56:15) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15282606702)
- ✅ Mathlib branch [lean-pr-testing-8173](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8173) has successfully built against this PR. (2025-05-27 21:19:40) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15285154281)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 2f4e56b5d2ce5e0800d53d93a5ad939e8b8fb1c3 --onto c12159b51982221bdd66f0c5997f85e1f9d91772`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-04 19:57:23)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 2f4e56b5d2ce5e0800d53d93a5ad939e8b8fb1c3 --onto 9b9dd8546a123d746580649b239f26c26d370d20`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-05 17:06:17)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 2f4e56b5d2ce5e0800d53d93a5ad939e8b8fb1c3 --onto 0a9c24649767dea857a388e5385b7ae94bfd0185`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-11 09:11:53)

File: src/Lean/Compiler/CSimpAttr.lean (hunk 2 above)
Comment (nomeata) [reply src/Lean/Compiler/CSimpAttr.lean:61]: Hmm, I guess the examples I was thinking of don't actually work, because the csimp is only effective afterwards. I conjecture there still is a way, but ignore my comment for now.

**Comment by Rob23oba** [comment]
I'm going to need some help for the `@[extern]` attribute, if anyone knows the details it would be nice.

**Comment by nomeata** [comment]
Not sure if anyone with that knowledge will be around soon, so maybe split into one PR per (set of related) attributes, for quicker merging of easy ones?

**Comment by Rob23oba** [comment]
I guess I'll just postpone `@[extern]` and keep the remaining ones where I'm pretty sure.

File: src/Lean/Elab/Term.lean [hunk 4]
```diff
@@ -944,7 +944,7 @@ private def applyAttributesCore
         let runAttr := do
           -- not truly an elaborator, but a sensible target for go-to-definition
           let elaborator := attrImpl.ref
-          if (← getInfoState).enabled && (← getEnv).contains elaborator then
+          if (← getInfoState).enabled then
```
Comment (nomeata) [inline src/Lean/Elab/Term.lean:947]: Why was this check removed?

File: src/Lean/Compiler/ImplementedByAttr.lean [hunk 5]
```diff
@@ -11,6 +11,31 @@ import Lean.Elab.InfoTree
...
+-/
+@[builtin_doc]
 builtin_initialize implementedByAttr : ParametricAttribute Name ← registerParametricAttribute {
```
Comment (nomeata) [inline src/Lean/Compiler/ImplementedByAttr.lean:39]: Above you changed `builtin_initialize` to `builtin_init`, but here you didn’t. Is there a difference? The idiom with `builtin_doc` on `builtin_initialize` looks prettier.

**Comment by nomeata** [comment]
I guess this would fix #8432 well enough.

File: src/Lean/Elab/Term.lean (hunk 4 above)
Comment (Rob23oba) [reply src/Lean/Elab/Term.lean:954]: Otherwise the documentation doesn't get shown without `import Lean`

Comment (nomeata) [reply src/Lean/Elab/Term.lean:954]: Ah, because it’s built-in documentation and thus these constants don’t appear in the environment?

**Comment by Rob23oba** [comment]
@david-christiansen, could you take a look at the documentation? I'm sure there some parts that could be improved

File: src/Lean/BuiltinDocAttr.lean [hunk 6]
```diff
@@ -15,7 +15,11 @@ def declareBuiltinDocStringAndRanges (declName : Name) : AttrM Unit := do
   if let some declRanges ← findDeclarationRanges? declName then
     declareBuiltin (declName ++ `declRange) (mkAppN (mkConst ``addBuiltinDeclarationRanges) #[toExpr declName, toExpr declRanges])
 
-builtin_initialize
+/--
+Makes the documentation and location of a declaration available as a builtin.
```
Comment (david-christiansen) [inline src/Lean/BuiltinDocAttr.lean:19]: I'm not sure whether this docstring will help anyone who doesn't already know what it does.

What about something like:

```suggestion
Makes the documentation and location of a declaration available as a builtin.

This saves the information in a mutable reference cell in addition to an environment extension, allowing the information to be available during bootstrapping. It should only be used in the Lean source code.
```

or something like that?

File: src/Lean/Compiler/ExportAttr.lean [hunk 7]
```diff
@@ -17,6 +17,27 @@ private def isValidCppName : Name → Bool
   | .str p s          => isValidCppId s && isValidCppName p
   | _                 => false
 
+/--
+Instructs the compiler to use a specific name for a function in compiled code.
```
Comment (david-christiansen) [inline src/Lean/Compiler/ExportAttr.lean:21]:
```suggestion
Instructs the compiler to use a specific name for a function in the resulting C code.
```

Just to make it clear that it's not the IR or the code run in the interpreter that we're talking about.

File: src/Lean/Compiler/ExportAttr.lean [hunk 8]
```diff
@@ -17,6 +17,27 @@ private def isValidCppName : Name → Bool
...
+
+def bar (x : Nat) : Nat := ... -- can use `foo` indirectly as `fooFn`
+
+-- File2.lean
+import File1
+
+@[export my_foo_function]
+def foo (x : Nat) : Nat := ... -- can use `bar`
+```
+Note however that this only works in compiled code.
```
Comment (david-christiansen) [inline src/Lean/Compiler/ExportAttr.lean:38]: Is this something that we want to advertise in the docstring? I've always understood it to be more of a necessary kludge than something we really want to be encouraging the use of. Perhaps this should be an in-source comment instead of the docstring?

File: src/Lean/Compiler/ImplementedByAttr.lean (hunk 3 above)
Comment (david-christiansen) [inline src/Lean/Compiler/ImplementedByAttr.lean:36]:
```suggestion
Instructs the compiler to use a different function as the implementation of a function. With the exception of tactics that call native code such as `native_decide`, the kernel and type checking are unaffected. When this attribute is used on a function, the function is not compiled and  all compiler-related
attributes (e.g. `noncomputable`, `@[inline]`) are ignored. Calls to this function are replaced by calls to its implementation.

The most common use cases of `@[implemented_by]` are to provide an efficient unsafe implementation that is made accessible through an opaque function:

```
unsafe def fooUnsafe (x : Bool) : UInt8 := unsafeCast x

@[implemented_by fooUnsafe]
def foo : Bool → UInt8 | false => 0 | true => 1

unsafe def barUnsafe (x : Nat) : Nat := ...

@[implemented_by barUnsafe]
opaque bar (x : Nat) : Nat
```

The provided implementation is not checked to be equivalent to the original definition. This makes it possible to
prove `False` with `native_decide` using incorrect implementations. For a safer variant of this
attribute that can only be used to provide safe implementations, see `@[csimp]`, which requires a proof that the two functions are equal.
```

Comment (david-christiansen) [reply src/Lean/Compiler/ImplementedByAttr.lean:36]: It would also be nice if the example were slightly realistic, rather than being just `foo` and `bar`. Perhaps something like an equality test that first uses pointer equality before falling back to `BEq`?

File: src/Lean/Compiler/InlineAttrs.lean [hunk 9]
```diff
@@ -32,6 +32,26 @@ private def isValidMacroInline (declName : Name) : CoreM Bool := do
     return false
   return true
 
+/--
+Changes the inlining behavior. This attribute comes in several variants:
+- `@[inline]`: marks the definition to be inlined when it is appropriate.
+- `@[inline_if_reduce]`: marks the definition to be inlined if the term after inlining and
+  applying reduction isn't a `match` expression. This attribute can be used for inlining
+  structurally recursive functions. Note: the current/old compiler (written in C++) does not
+  support this attribute.
```
Comment (david-christiansen) [inline src/Lean/Compiler/InlineAttrs.lean:41]: I'm not sure I'd be able to use this attribute after reading this point. What is "the term" here? Is it "the term that contains a reference to the definition"? Where are the boundaries of it?

Perhaps we should leave out this point until the new compiler is ready to avoid confusing users?

File: src/Lean/Compiler/InlineAttrs.lean [hunk 10]
```diff
@@ -32,6 +32,26 @@ private def isValidMacroInline (declName : Name) : CoreM Bool := do
...
+- `@[noinline]`: marks the definition to never be inlined.
+- `@[always_inline]`: marks the definition to always be inlined.
+- `@[macro_inline]`: marks the definition to always be inlined early. This makes it possible
```
Comment (david-christiansen) [inline src/Lean/Compiler/InlineAttrs.lean:44]:
```suggestion
- `@[macro_inline]`: marks the definition to be inlined during elaboration. Such definitions are
  expanded before sending terms to the kernel, rather than in the compiler. This makes it possible
```

File: src/Lean/Compiler/InlineAttrs.lean [hunk 11]
```diff
@@ -32,6 +32,26 @@ private def isValidMacroInline (declName : Name) : CoreM Bool := do
...
+  to define functions that evaluate some of their parameters lazily. Example:
```
Comment (david-christiansen) [inline src/Lean/Compiler/InlineAttrs.lean:45]:
```suggestion
- `@[macro_inline]`: marks the definition to always be inlined at the beginning of compilation.
  This makes it possible to define functions that evaluate some of their parameters lazily. Example:
```

File: src/Lean/Compiler/InlineAttrs.lean [hunk 12]
```diff
@@ -32,6 +32,26 @@ private def isValidMacroInline (declName : Name) : CoreM Bool := do
...
+  ```
+  @[macro_inline]
+  def test (x y : Nat) : Nat :=
+    if x = 42 then x else y
+
+  #eval test 42 (2^1000000000000) -- doesn't compute 2^1000000000000
+  ```
```
Comment (david-christiansen) [inline src/Lean/Compiler/InlineAttrs.lean:52]:
````suggestion
  ```
  Only non-recursive functions may be marked `@[macro_inline]`.
````

File: src/Lean/Compiler/NeverExtractAttr.lean [hunk 13]
```diff
@@ -9,6 +9,12 @@ import Lean.Attributes
 
 namespace Lean
 
+/--
+Instructs the compiler that function applications using the tagged declaration should
+not be extracted when they are closed terms, nor common subexpression should be performed.
+This is useful for declarations that have implicit effects.
```
Comment (david-christiansen) [inline src/Lean/Compiler/NeverExtractAttr.lean:15]:
```suggestion
Instructs the compiler that function applications using the tagged declaration should
not be extracted when they are closed terms, and that common subexpression elimination
should not be performed.

Ordinarily, the Lean compiler identifies closed terms (without free variables) and extracts them to top-level definitions. This optimization can prevent unnecessary recomputation of values.

Preventing the extraction of closed terms is useful for declarations that have implicit effects that should be repeated.
```

File: src/Lean/Compiler/NoncomputableAttr.lean [hunk 14]
```diff
@@ -15,7 +15,7 @@ def addNoncomputable (env : Environment) (declName : Name) : Environment :=
   noncomputableExt.tag env declName
 
 /--
-  Return true iff the user has declared the given declaration as `noncomputable`.
+Return true iff the user has declared the given declaration as `noncomputable`.
```
Comment (david-christiansen) [inline src/Lean/Compiler/NoncomputableAttr.lean:18]:
```suggestion
Returns true when the given declaration is tagged `noncomputable`.
```

File: src/Lean/Elab/App.lean [hunk 15]
```diff
@@ -830,11 +830,67 @@ def getElabElimExprInfo (elimExpr : Expr) : MetaM ElabElimInfo := do
...
+  evenOddRec _ _ a h
+  /-
+  Before substitution, `a % 2 = 1` is reverted: `motive := fun n => a % 2 = 0 → (a + 1) % 2 = 0`.
+  Substitution: `motive := fun n => n % 2 = 1 → (n + 1) % 2 = 0`
+  Now the first hole has expected type `∀ n, n * 2 % 2 = 1 → (n * 2) % 2 = 0`.
+  Now the second hole has expected type `∀ n, (n * 2 + 1) % 2 = 1 → (n * 2 + 1) % 2 = 0`.
+  -/
+```
+
+See also `@[induction_eliminator]` and `@[cases_eliminator]` for registering default eliminators.
```
Comment (david-christiansen) [inline src/Lean/Elab/App.lean:891]: This is good content, but I think it's a bit much to read in a hover. How about putting it in the reference manual, and having this docstring be a summary and link?

If that's too big of an ask, then I can do it. As long as we make an issue to ensure it happens, I don't think it should block a merge here.

File: src/Lean/Meta/Tactic/ElimInfo.lean [hunk 16]
```diff
@@ -178,15 +178,79 @@ def addCustomEliminator (declName : Name) (attrKind : AttributeKind) (induction
...
+  | ⟨0⟩ => zero | ⟨1⟩ => one | ⟨2⟩ => two
+
+example (x : Three) (p : Three → Prop) : p x := by
+  induction x
+  -- ⊢ p ⟨0⟩
+  -- ⊢ p ⟨1⟩
+  -- ⊢ p ⟨2⟩
+```
+
+`@[cases_eliminator]` works similarly for the `cases` tactic.
```
Comment (david-christiansen) [inline src/Lean/Meta/Tactic/ElimInfo.lean:210]: I think that this is a very good example, but I'd rather see it in the reference manual with a link from here. That helps keep the code up to date as Lean changes, and it's easier to read in a browser than in a hover. As with the others, I can do this if it's too much to ask.

File: src/Lean/Meta/Tactic/ElimInfo.lean [hunk 17]
```diff
@@ -178,15 +178,79 @@ def addCustomEliminator (declName : Name) (attrKind : AttributeKind) (induction
...
+  | ⟨0⟩ => zero | ⟨1⟩ => one | ⟨2⟩ => two
+
+example (x : Three) (p : Three → Prop) : p x := by
+  cases x
+  -- ⊢ p ⟨0⟩
+  -- ⊢ p ⟨1⟩
+  -- ⊢ p ⟨2⟩
+```
+
+`@[induction_eliminator]` works similarly for the `induction` tactic.
```
Comment (david-christiansen) [inline src/Lean/Meta/Tactic/ElimInfo.lean:250]: I think that this is a very good example, but I'd rather see it in the reference manual with a link from here. That helps keep the code up to date as Lean changes, and it's easier to read in a browser than in a hover. As with the others, I can do this if it's too much to ask.

File: src/Lean/Meta/Tactic/ElimInfo.lean [hunk 18]
```diff
@@ -178,15 +178,79 @@ def addCustomEliminator (declName : Name) (attrKind : AttributeKind) (induction
...
+Example:
+```lean example
+structure Three where
+  val : Fin 3
+
+example (x : Three) (p : Three → Prop) : p x := by
+  cases x
+  -- val : Fin 3 ⊢ p ⟨val⟩
+
+@[induction_eliminator, elab_as_elim]
```
Comment (david-christiansen) [inline src/Lean/Meta/Tactic/ElimInfo.lean:237]:
```suggestion
@[cases_eliminator, elab_as_elim]
```

File: src/Lean/Meta/Tactic/Rfl.lean [hunk 19]
```diff
@@ -27,7 +27,16 @@ initialize reflExt :
...
   }
 
-initialize registerBuiltinAttribute {
+/--
+Tags reflexivity lemmas to be used by `rfl`.
+
+A reflexivity lemma should have the conclusion `r x x` where `r` is an arbitrary relation.
+
+It is not possible to tag reflexivity lemmas for `=` using this attribute, these are handled as
+a special case in `rfl`.
```
Comment (david-christiansen) [inline src/Lean/Meta/Tactic/Rfl.lean:36]: Comma splice:

```suggestion
It is not possible to tag reflexivity lemmas for `=` using this attribute. Thse are handled as
a special case in the `rfl` tactic.
```

File: src/Lean/Meta/Tactic/Rfl.lean [hunk 20]
```diff
@@ -27,7 +27,16 @@ initialize reflExt :
     initial := {}
   }
 
-initialize registerBuiltinAttribute {
+/--
+Tags reflexivity lemmas to be used by `rfl`.
```
Comment (david-christiansen) [inline src/Lean/Meta/Tactic/Rfl.lean:31]:
```suggestion
Tags reflexivity lemmas to be used by the `rfl` tactic.
```

File: src/Lean/Meta/Tactic/Simp/SimpCongrTheorems.lean [hunk 21]
```diff
@@ -109,7 +109,18 @@ def addSimpCongrTheorem (declName : Name) (attrKind : AttributeKind) (prio : Nat
   let lemma ← mkSimpCongrTheorem declName prio
   congrExtension.add lemma attrKind
 
-builtin_initialize
+/--
+Register `simp` congruence theorems.
```
Comment (david-christiansen) [inline src/Lean/Meta/Tactic/Simp/SimpCongrTheorems.lean:113]:
```suggestion
Registers `simp` congruence theorems.
```

File: src/Lean/Meta/Tactic/Simp/SimpCongrTheorems.lean [hunk 22]
```diff
@@ -109,7 +109,18 @@ def addSimpCongrTheorem (declName : Name) (attrKind : AttributeKind) (prio : Nat
...
+
+A `simp` congruence theorems should prove the equality of two applications of the same function from
```
Comment (david-christiansen) [inline src/Lean/Meta/Tactic/Simp/SimpCongrTheorems.lean:115]:
```suggestion
A `simp` congruence theorem should prove the equality of two applications of the same function from
```

File: src/Lean/Meta/Tactic/Simp/SimpCongrTheorems.lean [hunk 23]
```diff
@@ -109,7 +109,18 @@ def addSimpCongrTheorem (declName : Name) (attrKind : AttributeKind) (prio : Nat
...
+the equality of the individual arguments. They are used by `simp` to visit subexpressions of an
+application where the default congruence algorithm fails. This is in particular important for
```
Comment (david-christiansen) [inline src/Lean/Meta/Tactic/Simp/SimpCongrTheorems.lean:117]:
```suggestion
application where the default congruence algorithm fails. This is particularly important for
```

File: src/Lean/Meta/Tactic/Symm.lean [hunk 24]
```diff
@@ -26,7 +26,13 @@ builtin_initialize symmExt :
     initial := {}
   }
 
-builtin_initialize registerBuiltinAttribute {
+/--
+Tags symmetry lemmas to be used by `symm`.
```
Comment (david-christiansen) [inline src/Lean/Meta/Tactic/Symm.lean:30]:
```suggestion
Tags symmetry lemmas to be used by the `symm` tactic.
```

**Comment by david-christiansen** [comment]
Thanks! This is very useful!

A few of the docstrings are very long, which can make them hard to read in hovers. And code samples in docstrings tend to bitrot, because we don't yet have good infrastructure for checking them. Do you feel up to contributing some of the longer texts and examples to the reference manual? If not, we can open a reference manual issue tracking this, and I can upstream the text soon myself.

File: src/Lean/BuiltinDocAttr.lean (hunk 6 above)
Comment (Rob23oba) [reply src/Lean/BuiltinDocAttr.lean:19]: Yeah you're right, maybe it should refer to the fact that it makes documentation of builtin lean components visible without importing the module they're in?

File: src/Lean/Compiler/CSimpAttr.lean [hunk 25]
```diff
@@ -48,7 +48,23 @@ def add (declName : Name) (kind : AttributeKind) : CoreM Unit := do
...
+In functions defined after the theorem tagged `@[csimp]`, any occurrence of `f` is replaced with
+`g` while compiling. In this sense, `@[csimp]` works as a safe alternative of `@[implemented_by]`.
+
+However, it is still possible to register unsound `@[csimp]` lemmas by using `unsafe` or unsound
+axioms (like `sorryAx`). In some cases this is unavoidable for changing the behavior of existing
+functions. As long as neither of these are the case, `@[csimp]` should be safe though.
+
+`@[csimp]` is useful for providing an efficient implementation to a function with useful
+definitional equalities or to make noncomputable functions computable.
+This is for example used for many `List` functions to provide a tail-recursive implementation.
```
[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Lean/Compiler/CSimpAttr.lean:64]: For reference: #7463. I don't think it's really important and maybe it should actually be removed because you could argue in some sense that this is unintentional usage

File: src/Lean/Compiler/InlineAttrs.lean (hunk 9 above)
Comment (Rob23oba) [reply src/Lean/Compiler/InlineAttrs.lean:41]: Actually it seems that this is wrong information, the old compiler does use this. My understanding mostly comes from the short description below but the way I understand it "the term" is an application of the function with the `@[inline_if_reduce]` attribute and inlining refers to delta reduction here.

File: src/Lean/Compiler/InlineAttrs.lean (hunk 11 above)
Comment (Rob23oba) [reply src/Lean/Compiler/InlineAttrs.lean:45]: Yeah you're right I wasn't quite sure when the step happens but it seems to be the first step after eta-expansion.

File: src/Lean/Compiler/ExportAttr.lean (hunk 7 above)
Comment (Rob23oba) [reply src/Lean/Compiler/ExportAttr.lean:21]: Hmm isn't there an LLVM backend or at least the possibility of multiple backends though? I agree though that "compiled code" is a bit too vague

File: src/Lean/Meta/Tactic/Simp/SimpCongrTheorems.lean [hunk 26]
```diff
@@ -109,7 +109,18 @@ def addSimpCongrTheorem (declName : Name) (attrKind : AttributeKind) (prio : Nat
...
+functions where some parameters depend on previous parameters.
+
+TODO: example
```
[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Lean/Meta/Tactic/Simp/SimpCongrTheorems.lean:120]: Yeah oops

File: src/Lean/Meta/Tactic/Simp/SimpCongrTheorems.lean [hunk 27]
```diff
@@ -109,7 +109,17 @@ def addSimpCongrTheorem (declName : Name) (attrKind : AttributeKind) (prio : Nat
...
-builtin_initialize
+/--
+Registers `simp` congruence theorems.
+
+A `simp` congruence theorem should prove the equality of two applications of the same function from
+the equality of the individual arguments. They are used by `simp` to visit subexpressions of an
+application where the default congruence algorithm fails. This is particularly important for
+functions where some parameters depend on previous parameters.
+-/
+-- TODO: example
```
[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Lean/Meta/Tactic/Simp/SimpCongrTheorems.lean:120]: Probably would add an example if I find one (maybe `Option.pbind_congr` would work?)

File: src/Lean/Compiler/CSimpAttr.lean (hunk 25 above)
[the remark this answers is not in the document]
Comment (david-christiansen) [reply src/Lean/Compiler/CSimpAttr.lean]: I think that this shouldn't be in the docstring, probably, because we don't want to communicate that it's a good idea :-)

**Comment by david-christiansen** [comment]
> I don't really have experience with Verso, so maybe just open an issue there?

Done! https://github.com/leanprover/reference-manual/issues/449

**Comment by david-christiansen** [comment]
@Rob23oba Just checking in - is this ready for a final round of reviews and a merge now, or are there further changes you'd like to push?

File: src/Lean/Compiler/ExportAttr.lean (hunk 8 above)
Comment (Rob23oba) [reply src/Lean/Compiler/ExportAttr.lean]: I want to answer the question "why is `@[export]` here" for everyone who sees it in the Lean source code. Should I maybe refer to it as a "hack" then and remove the example?

**Comment by Rob23oba** [comment]
There are still some things to resolve but it's pretty much done

**Comment by Rob23oba** [comment]
Okay, ready for a final review round now.

File: src/Lean/BuiltinDocAttr.lean (hunk 6 above)
Comment (david-christiansen) [reply src/Lean/BuiltinDocAttr.lean:19]: Do you plan to make a change along these lines? Otherwise, I can do it.

Comment (david-christiansen) [reply src/Lean/BuiltinDocAttr.lean:19]: Wait, never mind, it's below this comment :-) Sorry for the noise.

File: src/Lean/BuiltinDocAttr.lean [hunk 28]
```diff
@@ -15,7 +15,15 @@ def declareBuiltinDocStringAndRanges (declName : Name) : AttrM Unit := do
...
+
+This allows the documentation of core Lean features to be visible without importing the file they
+are defined in. This is only possible because of bootstrapping and should not be used outside of
```
Comment (david-christiansen) [inline src/Lean/BuiltinDocAttr.lean]:
```suggestion
are defined in. This is only needed because of bootstrapping and should not be used outside of
```

File: src/Lean/Compiler/CSimpAttr.lean [hunk 29]
```diff
@@ -48,7 +48,22 @@ def add (declName : Name) (kind : AttributeKind) : CoreM Unit := do
...
+/--
+Tags compiler simplification theorems, which allow one value to be replaced by another equal value
+in compiled code. This is typically used to replace a slow function whose definition is convenient
+in proofs with a faster equivalent or to make noncomputable functions computable. In particular,
+many operations on lists and arrays are replaced by tail-recursive equivalents.
+
+A compiler simplification theorem cannot take any parameters and must prove a statement `@f = @g`
+where `f` and `g` may be arbitrary constants. In functions defined after the theorem tagged
+`@[csimp]`, any occurrence of `f` is replaced with `g` in compiled code, but not in the type
+theory. In this sense, `@[csimp]` works as a safe alternative to `@[implemented_by]`.
```
Comment (david-christiansen) [inline src/Lean/Compiler/CSimpAttr.lean]:
```suggestion
theory. In this sense, `@[csimp]` works as a safer alternative to `@[implemented_by]`.
```

Comment (david-christiansen) [reply src/Lean/Compiler/CSimpAttr.lean]: Or even:
```suggestion
theory. In this sense, `@[csimp]` is a safer alternative to `@[implemented_by]`.
```

File: src/Lean/Compiler/ExternAttr.lean [hunk 30]
```diff
@@ -61,6 +61,7 @@ private def syntaxToExternAttrData (stx : Syntax) : AttrM ExternAttrData := do
 @[extern "lean_add_extern"]
 opaque addExtern (env : Environment) (n : Name) : ExceptT String Id Environment
 
+-- TODO: documentation
```
Comment (david-christiansen) [inline src/Lean/Compiler/ExternAttr.lean]:
```suggestion
```

This is implicit on every undocumented symbol. Is there any reason to have the comment on this one in particular?

File: src/Lean/Elab/Declaration.lean [hunk 31]
```diff
@@ -335,9 +335,11 @@ def elabMutual : CommandElab := fun stx => do
         $[unsafe%$unsafe?]? def initFn : IO $type := with_decl_name% $(mkIdent fullId) do $doSeq
         $defStx:command))
     else
-      let `(Parser.Command.declModifiersT| $[$doc?:docComment]? ) := declModifiers
+      let `(Parser.Command.declModifiersT| $[$doc?:docComment]? $[@[$attrs?,*]]? $(_)? $[unsafe%$unsafe?]?) := declModifiers
         | throwErrorAt declModifiers "invalid initialization command, unexpected modifiers"
-      elabCommand (← `($[$doc?:docComment]? @[$attrId:ident] def initFn : IO Unit := do $doSeq))
+      let attrs := (attrs?.map (·.getElems)).getD #[]
+      let attrs := attrs.push (← `(Lean.Parser.Term.attrInstance| $attrId:ident))
+      elabCommand (← `($[$doc?:docComment]? @[$[$attrs],*] $[unsafe%$unsafe?]? def initFn : IO Unit := do $doSeq))
```
Comment (david-christiansen) [inline src/Lean/Elab/Declaration.lean:342]: Doesn't this change make `private def init :=` unnecessary? Or did that discussion conclude in some other way?

File: src/Lean/PrettyPrinter/Formatter.lean [hunk 32]
```diff
@@ -77,27 +82,31 @@ unsafe def mkFormatterAttribute : IO (KeyedDeclsAttribute Formatter) :=
...
     `combinator_formatter
-    "Register a formatter for a parser combinator.
-
-  [combinator_formatter c] registers a declaration of type `Lean.PrettyPrinter.Formatter` for the `Parser` declaration `c`.
-  Note that, unlike with [formatter], this is not a node kind since combinators usually do not introduce their own node kinds.
-  The tagged declaration may optionally accept parameters corresponding to (a prefix of) those of `c`, where `Parser` is replaced
-  with `Formatter` in the parameter types."
-@[builtin_init mkCombinatorFormatterAttribute] opaque combinatorFormatterAttribute : ParserCompiler.CombinatorAttribute
+    "Register a formatter for a parser combinator"
+    `Lean.PrettyPrinter.mkCombinatorFormatterAttribute -- TODO (bootstrapping): remove if possible
```
Comment (david-christiansen) [inline src/Lean/PrettyPrinter/Formatter.lean:101]: What does this comment mean here? Does this meant here should be a stage0 update, after which this could then be removed?

File: src/Lean/PrettyPrinter/Parenthesizer.lean [hunk 33]
```diff
@@ -158,19 +167,23 @@ unsafe def mkCategoryParenthesizerAttribute : IO (KeyedDeclsAttribute CategoryPa
       if (← Elab.getInfoState).enabled && (← getEnv).contains cat.declName then
         Elab.addConstInfo stx cat.declName none
       pure id
-  } `Lean.PrettyPrinter.categoryParenthesizerAttribute
-@[builtin_init mkCategoryParenthesizerAttribute] opaque categoryParenthesizerAttribute : KeyedDeclsAttribute CategoryParenthesizer
+  }
+
+/--
+Register a parenthesizer for a parser combinator.
```
Comment (david-christiansen) [inline src/Lean/PrettyPrinter/Parenthesizer.lean]:
```suggestion
Registers a parenthesizer for a parser combinator.
```

File: tests/lean/run/builtinInitStx.lean [hunk 34]
```diff
@@ -0,0 +1,3 @@
+@[inline]
```
Comment (david-christiansen) [inline tests/lean/run/builtinInitStx.lean:5]: Please add documentation here that describes this test! The preferred format is described [here](https://github.com/leanprover/lean4/blob/master/doc/dev/testing.md#writing-good-tests).

File: src/Lean/Compiler/ExportAttr.lean (hunk 8 above)
Comment (david-christiansen) [reply src/Lean/Compiler/ExportAttr.lean]: I'd really prefer that we not advertise this to everyone who sees `@[export]` in any Lean code anywhere in the world and scrubs the mouse over it. Users of Lean are a more important audience than people working on Lean itself, and I think this is more likely to make their lives worse, rather than better.

A comment next to the attribute would let any Lean developer who does "go to def" see this, resolving their curiosity, as would comments next to instances of the trick.

**Comment by david-christiansen** [comment]
OK, I found a couple tiny detail things, and one substantive question. Otherwise, we're good to go - thanks!

I see that the `initialize` and `builtin_initialize` elaborators were modified to take docstrings. Does that obviate the need for all the `private def init :=` changes?

File: src/Lean/PrettyPrinter/Formatter.lean (hunk 32 above)
Comment (Rob23oba) [reply src/Lean/PrettyPrinter/Formatter.lean:101]: If this would be removed, the attribute would correctly have a `ref` to `combinatorFormatterAttribute`, where the documentation is. But, the environment extension would also be renamed, causing existing .olean data to be ignored (I think that's how it works?). Which is to say there would probably need to be a separate PR for removing this line and doing a stage0 update (the usual stage0 update probably wouldn't work because test failures).

**Comment by Rob23oba** [comment]
> Does that obviate the need for all the `private def init :=` changes?

After a stage0 update, yeah. So there needs to be a follow-up PR (maybe also with `mkCombinatorFormatterAttribute` / `mkCombinatorParenthesizer` fixes)

File: src/Lean/BuiltinDocAttr.lean (hunk 28 above)
Comment (Rob23oba) [reply src/Lean/BuiltinDocAttr.lean]: The thing I wanted to say here is "you can only have documentation visible without importing the file it's in if you have a bootstrapping step"

File: src/Lean/Compiler/ExternAttr.lean (hunk 30 above)
Comment (Rob23oba) [reply src/Lean/Compiler/ExternAttr.lean]: Yeah, you're right. I guess this is just to mark the attributes the aren't documented yet? Oh well, it isn't used exhaustively so might as well remove

File: src/Lean/Elab/Declaration.lean (hunk 31 above)
Comment (Rob23oba) [reply src/Lean/Elab/Declaration.lean:342]: Yeah, again, stage0 update necessary

File: src/Lean/Compiler/ExportAttr.lean (hunk 8 above)
Comment (digama0) [reply src/Lean/Compiler/ExportAttr.lean]: Note that this trick actually doesn't work in user code, it's a lean core exclusive. It needs to be compiled as a builtin or something; I never managed to get the lake invocation to make it work, if one exists.

Comment (Rob23oba) [reply src/Lean/Compiler/ExportAttr.lean]: Yeah I changed the documentation to instead mention an FFI example

**Comment by david-christiansen** [comment]
> > Does that obviate the need for all the `private def init :=` changes?
> 
> After a stage0 update, yeah. So there needs to be a follow-up PR (maybe also with `mkCombinatorFormatterAttribute` / `mkCombinatorParenthesizer` fixes)

OK. In the morning, I'll just give it a quick local test to make sure things work as we expect after the `stage0` update.

Thanks!

**Comment by nomeata** [comment]
Thanks for the contribution and the reviewing!
